US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid (Int-V, 30 mg, 0.070 mmol), (1,3,5-trimethyl-1H-pyrazol-4-yl)methanamine-HCl (18.33 mg, 0.104 mmol), 4-methylmorpholine (28.1 mg, 0.278 mmol), and HATU (34.4 mg, 0.090 mmol) were added to DMF (1 mL). This was stirred for 1 h before it was purified via preparative LCMS with the following conditions: Column: Waters XBridge C18, 19×250 mm, 5-μm particles; Guard Column: Waters XBridge C18, 19×10 mm, 5-μm particles; Mobile Phase A: 5:95 methanol:water with 10-mM ammonium acetate; Mobile Phase B: 95:5 methanol:water with 10-mM ammonium acetate; Gradient: 50-100% B over 25 minutes, then a 5-minute hold at 100% B; Flow: 20 mL/min. Fractions containing the desired product were combined and dried via centrifugal evaporation to give (R/S)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)-N-((1,3,5-trimethyl-1H-pyrazol-4-yl)methyl)acetamide (17.2 mg, 0.031 mmol, 44.8% yield): LCMS=553.2 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.14 (2 H, d, J=8.28 Hz), 7.50-7.69 (8H, m), 5.10 (1 H, s), 4.19 (2 H, d, J=5.27 Hz), 3.65 (3 H, s), 2.17 (3 H, s), 2.12 (3 H, s); HPLC peak RT=2.6 min (Method E).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)acetic acid | 0.070 mmol, 30 mg | OC(C(=O)O)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C20H12F3N3O5
reactant | (1,3,5-trimethyl-1H-pyrazol-4-yl)methanamine-HCl | 0.104 mmol, 18.33 mg | Cl.CN1N=C(C(=C1C)CN)C
reactant | 4-methylmorpholine | 0.278 mmol, 28.1 mg | CN1CCOCC1 | C5H11NO
reactant | HATU | 0.090 mmol, 34.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)-N-((1,3,5-trimethyl-1H-pyrazol-4-yl)methyl)acetamide | 0.031 mmol, 17.2 mg, 44.8% yield | OC(C(=O)NCC=1C(=NN(C1C)C)C)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C27H23F3N6O4
